Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
uterine fibroids
 
Major Surgical or Invasive Procedure:
___ bilateral uterine artery embolizations
 
History of Present Illness:
___ known uterine fibroids, resultant menorrhagia, anemia and 
pelvic pain, DCIS s/p R partial mastectomy/radiation on 
tamoxifen who presents for planned UAE. Procedure was performed 
under conscious sedation. Both right and left uterine arteries 
were embolized via a left radial approach. She remained 
hemodynamically stable throughout procedure. TR band was placed 
and removed after 1 hour. Due to significant pain, she was 
started on PCA and admitted. 

On arrival to the floor, pt reports ___ cramping, suprapubic 
pain, as well as nausea and recent emesis. When she presses the 
PCA, she does not experience pain relief. Last dose of tamoxifen 
was 1 week prior. 

ROS:  
As per HPI. Remaining ROS negative. 
 
Past Medical History:
IRON DEFICIENCY ANEMIA   
     Due to vaginal bleeding. Takes TID iron. Tolerating. 
Recently received IV iron. 
MENOMETRORRHAGIA   
     Due to fibroids. 
FIBROID UTERUS   
     ___ US: mult, largest 6cm.  
CERVICAL RADICULITIS    
BACK PAIN   
     In a lot of pain. she is s/p ___ in the past. Was worse s/p 
MVC.  
RIGHT BREAST DCIS, s/p partial mastectomy/radiation, on 
tamoxifen
H/O VERTIGO   
     BPPV- last episode ___. prn meclizine is effective. 
 
Social History:
___
Family History:
Remains negative for breast or ovarian cancer. 
Significant for diabetes, hypertension and a brain tumor in her
mother.
 
Physical Exam:
ADMISSION EXAM:Vitals:  98.1
PO 137 / 72 70 16 98 RA 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: CTAB no wheezes, rales, rhonchi  
CV: RRR, Nl S1, S2, No MRG  
Abdomen: soft, ND, bowel sounds present, mild TTP to suprapubic 
region, no rebound tenderness or guarding, no organomegaly  
GU: foley in place  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CN2-12 intact, no focal deficits 

DISCHARGE EXAM:
VS: 98
PO 127 / 72 65 16 100 RA 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: CTAB no wheezes, rales, rhonchi  
CV: RRR, Nl S1, S2, No MRG  
Abdomen: soft, ND, bowel sounds present, mild TTP to suprapubic 
region, no rebound tenderness or guarding, no organomegaly  
GU: foley in place  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 
Pertinent Results:
ADMISSION LABS:

___ 07:30AM BLOOD WBC-2.5* RBC-3.98 Hgb-12.8 Hct-38.6 
MCV-97 MCH-32.2*# MCHC-33.2 RDW-11.9 RDWSD-42.2 Plt ___
___ 07:30AM BLOOD ___
___ 07:30AM BLOOD Creat-0.7
___ 08:19AM URINE UCG-NEGATIVE

DISCHARGE LABS:

___ 07:12AM BLOOD WBC-11.1*# RBC-3.61* Hgb-11.6 Hct-35.3 
MCV-98 MCH-32.1* MCHC-32.9 RDW-11.7 RDWSD-42.0 Plt ___

RADIOLOGY: 
FINDINGS:  
1. Left uterine artery supplying a large fibroid.  No 
arteriovenous shunting, stenosis, vesical, vaginal or ovarian 
branches noted. 
2. Right uterine artery supplying a large fibroid.  No 
arteriovenous shunting, stenosis, vesical, vaginal or ovarian 
branches noted. 
3. No evidence of ovarian arterial supply to the fibroids. 
4. Post-procedure fibroid staining and near stasis confirming 
successful 
imaging end point. 
  
IMPRESSION:  
Left radial artery access bilateral uterine artery particle 
embolization to near stasis. 

 
Brief Hospital Course:
___ known uterine fibroids, resultant menorrhagia, anemia and 
pelvic pain, DCIS s/p R partial mastectomy/radiation on 
tamoxifen who presents for planned UAE. S/p bilateral UAE on 
___, admitted for PCA for pain control. She was weaned off the 
PCA overnight and transitioned to PO oxycodone. Discharged with 
Rx for 1 week oxycodone, standing Tylenol and naproxen. 

TRANSITIONAL ISSUES:
-Restart tamoxifen after 2 weeks
-___ f/u in 3 months
 
Medications on Admission:
None (holding tamoxifen)
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Naproxen 500 mg PO Q12H 
This is Aleve, which you can buy at the pharmacy.   
3.  OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Severe 
RX *oxycodone 5 mg ___ tablet(s) by mouth Q6H PRN Disp #*40 
Tablet Refills:*0 
4.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [Miralax] 17 gram/dose 1 powder(s) 
by mouth daily Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Uterine fibroids
Post-uterine artery embolization
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at the ___ 
___. 

What was done: 
-You had a successful embolization of your uterine arteries
-You received intravenous pain medications overnight and your 
pain improved

What to do next:
-Continue to take pain medications as prescribed
-Contact the physicians who did the procedure if you have any 
concerns
-Do not restart your tamoxifen until 2 weeks after this 
procedure.

We wish you all the best,
Your ___ team
 
Followup Instructions:
___